US07253286B2
t-Butyl 4-{[(4-{3-chloro-4-[(phenoxycarbonyl)amino]phenoxy}-2-pyridyl)amino]carbonyl}-1-piperidinecarboxylate
After adding 0.21 ml of phenyl chloroformate to a solution of 660 mg of t-butyl 4-({[4-(4-amino-3-chlorophenoxy)-2-pyridyl]amino}carbonyl)-1-piperidine carboxylate, 0.14 ml of pyridine and 10 ml of tetrahydrofuran while stirring at room temperature, the mixture was further stirred for 13 hours. Water was added to the reaction solution, extraction was performed with ethyl acetate and the organic layer was washed with water, after which silica gel was added and the solvent was distilled off under reduced pressure. The silica gel was charged into a dry column packed with silica gel, and purification was performed by column chromatography (hexane:ethyl acetate=1:1, followed by ethyl acetate) to obtain 500 mg of a colorless oil.

reactant | phenyl chloroformate | 0.21 ml | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | t-butyl 4-({[4-(4-amino-3-chlorophenoxy)-2-pyridyl]amino}carbonyl)-1-piperidine carboxylate | 660 mg | NC1=C(C=C(OC2=CC(=NC=C2)NC(=O)C2CCN(CC2)C(=O)OC(C)(C)C)C=C1)Cl | C22H27ClN4O4
reactant | pyridine | 0.14 ml | N1=CC=CC=C1 | C5H5N
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
product | t-Butyl 4-{[(4-{3-chloro-4-[(phenoxycarbonyl)amino]phenoxy}-2-pyridyl)amino]carbonyl}-1-piperidinecarboxylate | 500 mg | ClC=1C=C(OC2=CC(=NC=C2)NC(=O)C2CCN(CC2)C(=O)OC(C)(C)C)C=CC1NC(=O)OC1=CC=CC=C1 | C29H31ClN4O6
